US07732456B2
(1) Preparation of tert-butyl (2S)-2-(fluoromethyl)pyrrolidine-1-carboxylate
Diethylaminosulfur trifluoride (3.3 g, 20.5 mmols) was added to dichloromethane (30 mL) solution of tert-butyl (2S)-2-(hydroxymethyl)pyrrolidine-1-carboxylate (3.2 g, 15.9 mmols) under cooling with ice, and stirred at the same temperature for 6 hours. The reaction liquid was poured into saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate. Then the organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. Concentrating the reaction liquid under reduced pressure, the residue was purified on silica gel column chromatography (C-300; ethyl acetate:hexane=1:20) to provide the title compound (390 mg, 12%).

reactant | Diethylaminosulfur trifluoride | 20.5 mmols, 3.3 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | tert-butyl (2S)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 15.9 mmols, 3.2 g | OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H19NO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | tert-butyl (2S)-2-(fluoromethyl)pyrrolidine-1-carboxylate | 390 mg, 12% | FC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H18FNO2
